2166-06-05 07:34:00 Physician Resident Progress Note
Chief Complaint: Tachypnea
   24 Hour Events:
   Patient tolerating face tent 30% at 15L
   -non invasive ventilation overnight
   -chest PT and nebs seem beneficial
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-6-2**] 08:42 AM
   Metronidazole - [**2166-6-5**] 12:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-6-4**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-6-5**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 56 (48 - 96) bpm
   BP: 122/51(70) {114/51(70) - 158/76(99)} mmHg
   RR: 18 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                  2,140 mL
                                                                    659 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    453 mL
   IVF:
                                                                    470 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    180 mL
   Urine:
                                                                  1,405 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    735 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 452 (452 - 452) mL
   PS : 8 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 8.8 L/min
   Physical Examination
   Gen: frail elderly male, resting tremor
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
   CV: normal S1, S2. No murmurs, rubs, or gallops.
   Chest: No chest wall deformities. Diffuse rhonchi, poor air movement,
   worse on L>R.
   Abd: +PEG tube in place without any surrounding erythema, +BS, Soft,
   non-tender, non-distended.
   Ext: Cachectic, no clubbing, cyanosis or edema. Radial and DP pulses
   2+, contractures of the hands and feet
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   120 K/uL
   9.2 g/dL
   158 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   27 mg/dL
   110 mEq/L
   145 mEq/L
   28.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2166-6-1**]  03:29 AM
                             [**2166-6-2**]  02:26 AM
                             [**2166-6-3**]  02:45 AM
                             [**2166-6-4**]  03:00 AM
                             [**2166-6-5**]  03:31 AM
   WBC
   2.8
   4.0
   4.9
   5.2
   3.9
   Hct
   30.2
   28.8
   27.0
   30.1
   28.3
   Plt
   105
   114
   114
   117
   120
   Cr
   0.9
   1.0
   0.7
   0.7
   0.6
   TropT
   <0.01
   Glucose
   169
   180
   139
   88
   158
   Other labs: PT / PTT / INR:13.5/32.9/1.2, CK / CKMB /
   Troponin-T:56//<0.01, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   ASSESSMENT/PLAN: 76 YO M w/ parkinsons, COPD, chronic indwelling foley,
   and recent aspiration pneumonia here re-admitted [**6-1**] from floor with
   tachypnea.
   # Tachypnea: Patient with underlying COPD. Not hypoxic but diffusely
   wheezy with poor air movement. ABG initially was reassuring with no
   evidence of hypoxia.  Likely COPD exacerbation, possibly triggered by
   unresolved pna though with decreased cough, normal WBC, and no outright
   fever, unlikely. Possible recurrent aspiration pneumonia, or viral URI.
   Completed 14d course of linezolid/zosyn 1 week ago. Initially treated
   with vanco/zosyn for? pneumonia however d/c
d [**6-2**] as pneumonia thought
   to be unlikely.  Tachypnea improved today.
   - continue Prednisone 60mg PO daily x 10 day course (day 5 of 10) for
   COPD exacerbation.
   - Attempt to use BIPAP to assist with lung aeration
   - standing albuterol and atrovent nebs q6 with albuterol prn q2
   - continue guiafenesin
   - sputum sample if patient able
   - chest PT
   # Low grade Fever: patient w/low grade temps in  ED and on the floor.
   Possible sources lung, however likely urine (indwelling foley). Abdomen
   benign. No skin lesions. C. Diff toxin positive. Afebrile x 48 hours.
   - oral vancomycin and IV flagyl for c. diff
   - cipro for UTI- 7 day course ( day one = [**5-31**])
   - follow-up blood cx, urine culture
   - sputum cx if able
   - foley replaced
   # Tacycardia/Bradycardia: Initally tachycardic on admission. Improved
   with IVF. On [**6-2**] developed bradycardia into the 30s. EKG showed sinus
   brady. No CP. Trops negative. Mentating throughout. Thought possibly to
   be secondary to urinary retention/pharmacologic (cipro). Resolved
   following placement of foley. Over last 24 hours HR 48-96.
   - Cont. to monitor
   # UTI: cont cipro
   # Parkinsons: continue current meds
   # COPD: continue nebulizers
   # Anemia: Hct at baseline, has Hx of GI bleeds
   - Hct stable
   # Afib: continue amiodarone, hold antiocoagulation as per Hx of GI
   bleeding.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2166-6-4**] 08:53 PM 60 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-5-31**] 11:50 PM
   Prophylaxis:
   DVT: heparin sc tid
   Stress ulcer: Famotidine 20mg po bid
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending PT/OT eval. Screen for pulmonary rehab

2166-06-06 07:39:00 Physician Resident Progress Note
24 Hour Events:
   Slightly falling hematocrit overnight
   Awaiting placement
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2166-6-6**] 12:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-6-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-6-6**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 67 (57 - 92) bpm
   BP: 139/62(81) {119/47(68) - 149/76(90)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,095 mL
                                                                    537 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    373 mL
   IVF:
                                                                    440 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    870 mL
                                                                    350 mL
   Urine:
                                                                    870 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,225 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: Standby
   Vt (Spontaneous): 763 (614 - 763) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 15.7 L/min
   Physical Examination
   Gen: frail elderly male, resting tremor
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
   CV: normal S1, S2. No murmurs, rubs, or gallops.
   Chest: No chest wall deformities. Diffuse rhonchi, poor air movement,
   worse on L>R.
   Abd: +PEG tube in place without any surrounding erythema, +BS, Soft,
   non-tender, non-distended.
   Ext: Cachectic, no clubbing, cyanosis or edema. Radial and DP pulses
   2+, contractures of the hands and feet
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   126 K/uL
   8.5 g/dL
   149 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.9 mEq/L
   25 mg/dL
   112 mEq/L
   147 mEq/L
   26.4 %
   4.6 K/uL
        [image002.jpg]
                             [**2166-6-1**]  03:29 AM
                             [**2166-6-2**]  02:26 AM
                             [**2166-6-3**]  02:45 AM
                             [**2166-6-4**]  03:00 AM
                             [**2166-6-5**]  03:31 AM
                             [**2166-6-6**]  02:56 AM
   WBC
   2.8
   4.0
   4.9
   5.2
   3.9
   4.6
   Hct
   30.2
   28.8
   27.0
   30.1
   28.3
   26.4
   Plt
   105
   114
   114
   117
   120
   126
   Cr
   0.9
   1.0
   0.7
   0.7
   0.6
   0.6
   TropT
   <0.01
   Glucose
   169
   180
   139
   88
   158
   149
   Other labs: PT / PTT / INR:14.1/79.9/1.2, CK / CKMB /
   Troponin-T:56//<0.01, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   ASSESSMENT/PLAN: 76 YO M w/ parkinsons, COPD, chronic indwelling foley,
   and recent aspiration pneumonia here re-admitted [**6-1**] from floor with
   tachypnea.
   # Tachypnea: Patient with underlying COPD. Not hypoxic but diffusely
   wheezy with poor air movement. ABG initially was reassuring with no
   evidence of hypoxia.  Likely COPD exacerbation, possibly triggered by
   unresolved pna though with decreased cough, normal WBC, and no outright
   fever, unlikely. Possible recurrent aspiration pneumonia, or viral URI.
   Completed 14d course of linezolid/zosyn 1 week ago. Initially treated
   with vanco/zosyn for? pneumonia however d/c
d [**6-2**] as pneumonia thought
   to be unlikely.  Tachypnea improved today.  Awaiting placement
   - continue Prednisone 60mg PO daily x 10 day course (day 6 of 10) for
   COPD exacerbation.
   - Attempt to use BIPAP to assist with lung aeration
   - standing albuterol and atrovent nebs q6 with albuterol prn q2
   - continue guiafenesin
   - sputum sample if patient able
   - chest PT
   # Falling Hct:  No obvious bleeding source, from 30 to 26, low normal
   baseline, will continue to monitor and guiaic all stools
   - F/U [**Hospital1 7**] Hct
   - guiaic all stools
   # Low grade Fever: patient w/low grade temps in  ED and on the floor.
   Possible sources lung, however likely urine (indwelling foley). Abdomen
   benign. No skin lesions. C. Diff toxin positive. Afebrile x 72 hours.
   - oral vancomycin and IV flagyl for c. diff
   - cipro for UTI- 7 day course ( day one = [**5-31**])
   - follow-up blood cx, urine culture
   - sputum cx if able
   - foley replaced
   # Tacycardia/Bradycardia: Initally tachycardic on admission. Improved
   with IVF. On [**6-2**] developed bradycardia into the 30s. EKG showed sinus
   brady. No CP. Trops negative. Mentating throughout. Thought possibly to
   be secondary to urinary retention/pharmacologic (cipro). Resolved
   following placement of foley.
   - Cont. to monitor
   # UTI: cont cipro
   # Parkinsons: continue current meds
   # COPD: continue nebulizers
   # Anemia: Hct at baseline, has Hx of GI bleeds
   - Hct stable
   # Afib: continue amiodarone, hold antiocoagulation as per Hx of GI
   bleeding.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2166-6-4**] 08:53 PM 60 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-5-31**] 11:50 PM
   Prophylaxis:
   DVT: heparin sc tid
   Stress ulcer: Famotidine 20mg po bid
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Screening for pulmonary rehab
   ------ Protected Section ------
   Linezolid/Zosyn course under
Tachypnea
 section was started completed
   on [**2166-5-23**] to complete a 14 day course.
   ------ Protected Section Addendum Entered By:[**Name (NI) 7268**] [**Name8 (MD) 7269**], MD
   on:[**2166-6-7**] 10:56 ------